US08877782B2
(2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using N-Boc-ethylenediamine instead of 2-aminoethyl isopropylether, to the title compound (261 mg, 90%) which was obtained as a white solid. MS: m/e=511.5 [M+OAc]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | N-Boc-ethylenediamine | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
product | (2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 261 mg, 90% | C(C)(C)(C)OC(NCCNC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C24H28N4O5
